US04410528
Reference Example 19: 4-(Octahydro-2H-benzimidazol-2-one-1-yl)-piperidine hydrochloride:
In this reference example, a solution of 6.1 g of 1-benzyl-4-(octahydro-2H-benzimidazol-2-one-1-yl)-piperidine obtained in the same manner as that of Reference Example 18 and 1 g of 5% palladium carbon in 100 ml of methanol, 100 ml of water and 20 ml of 12 N hydrochloric acid is shaken in the atmosphere of hydrogen under 4 to 5 atmosphere in an autoclave. The shaking is ceased when the absorption of hydrogen has been completed. The reaction mixture is subjected to filtration to remove the catalyst and the filtrate is concentrated. The residue is mixed with 20 ml of isopropanol and stirred to crystallize the reaction product. The crystals are dried and recrystallized from ethanol to obtain 3.9 g of the desired product.

reactant | 1-benzyl-4-(octahydro-2H-benzimidazol-2-one-1-yl)-piperidine | 6.1 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2C1CCCC2)=O | C19H27N3O
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 12 N, 20 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
catalyst | palladium carbon | 1 g | [C].[Pd]
product | 4-(Octahydro-2H-benzimidazol-2-one-1-yl)-piperidine hydrochloride | 3.9 g | Cl.N1(C(NC2C1CCCC2)=O)C2CCNCC2 | InChI=1S/C12H21N3O.ClH/c16-12-14-10-3-1-2-4-11(10)15(12)9-5-7-13-8-6-9;/h9-11,13H,1-8H2,(H,14,16);1H
